US04474964
4.0 g of 3-aminoindazole prepared by the method described in C. E. KWARTLER et. al., J. Am. Chem. Soc., 65, 1804 (1943), 8.18 g of 1-(2-bromoethyl)piperidine hydrobromide obtained from Referential Example 1, 8.28 g of anhydrous potassium carbonate and 80 ml of dried N,N-dimethylformamide were mixed and stirred for 24 hours at 80° C. After the reaction mixture was condensed under reduced pressure, 100 ml of chloroform and 50 ml of water were added to the condensed residue. Then the chloroform layer was separated, dried with anhydrous sodium sulfate and chloroform was removed under reduced pressure. The residue thus obtained was subjected to alumina-column chromatography (alumina: 200 g) using chloroform as the solvent to give 4.09 g of 3-(2-piperidinoethylamino)indazole in a yield of 56%.

reactant | 3-aminoindazole | 4.0 g | NC1=NNC2=CC=CC=C12 | C7H7N3
reactant | 1-(2-bromoethyl)piperidine hydrobromide | 8.18 g | Br.BrCCN1CCCCC1
reactant | potassium carbonate | 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-piperidinoethylamino)indazole | 4.09 g, yield of 56% | N1(CCCCC1)CCNC1=NNC2=CC=CC=C12 | C14H20N4
